US05616579
N-[4-(4-Piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]thiazole-4-carboxamide
Following a procedure similar to that described in Example 13, but using 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine and 4-thiazolecarboxylic acid as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as an oil in a 68% yield.

reactant | 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C15H23N3O
reactant | 4-thiazolecarboxylic acid | S1C=NC(=C1)C(=O)O | C4H3NO2S
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]thiazole-4-carboxamide | 68% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(=O)C=1N=CSC1 | C19H24N4O2S
